US08076488B2
Preparation of Methyl 4-[3-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)amino]-carbonyl}amino)phenoxy]pyridine-2-carboxylate
To a stirring solution of 2,2,4,4-tetrafluoro-6-isocyanato-1,3-benzodioxene (0.816 g, 3.28 mmol) was added 4-(3-aminophenoxy)pyridine-2-carboxylic acid methyl ester (0.800 g, 3.28 mmol) in DCM (13 mL) in portions. The homogenous contents turned white and opaque within 1 min. of addition, and were allowed to stir at room temperature for 12 h. The heterogenous mixture was filtered, and solid product repeatedly washed with DCM to remove residual starting material. The desired product was collected as a white powder, 1.36 g (83%). 1H-NMR (DMSO-d6) δ 9.08 (d, 2H), 8.59 (s, 1H), 8.07 (s, 1H), 7.60 (dd, 1H), 7.37 (m, 4H), 7.25 (d, 1H), 7.20 (dd, 1H), 6.80 (d, 1H), 3.82 (s, 3H); MS LC MS [M+H]+=494.1, RT=3.23 min.

reactant | 2,2,4,4-tetrafluoro-6-isocyanato-1,3-benzodioxene | 3.28 mmol, 0.816 g | C1=CC2=C(C=C1N=C=O)C(OC(O2)(F)F)(F)F | C9H3F4NO3
reactant | 4-(3-aminophenoxy)pyridine-2-carboxylic acid methyl ester | 3.28 mmol, 0.800 g | COC(=O)C1=NC=CC(=C1)OC1=CC(=CC=C1)N | C13H12N2O3
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-[3-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)amino]-carbonyl}amino)phenoxy]pyridine-2-carboxylate | FC1(OC(C2=C(O1)C=CC(=C2)NC(=O)NC=2C=C(OC1=CC(=NC=C1)C(=O)OC)C=CC2)(F)F)F | C22H15F4N3O6
